US07968570B2
7-Methyl-5-morpholin-4-ylmethyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one
Morpholine (8.2 mg, 0.094 mmol) was dissolved in dichloromethane (2.0 mL) and 7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbaldehyde (30.0 mg, 0.085 mmol) was added. The mixture was stirred for ten minutes and sodium triacetoxy borohydride (29.7 mg, 0.14 mmol) was added and the reaction was allowed to stir overnight. The reaction was then diluted with dichloromethane, washed with saturated sodium bicarbonate and brine, dried over sodium sulfate, filtered and concentrated. Column chromatography (20% MeOH/EtOAc) provided the title compound as a colourless oil (13.3 mg, 37%). 1H NMR (300 MHz, CDCl3): δ 7.35 (d, 2H), 7.19 (d, 4H), 4.78 (s, 2H), 4.23 (s, 2H), 3.72 (t, 4H), 3.53 (s, 2H), 2.76 (s, 3H), 2.45 (t, 4H).

reactant | Morpholine | 0.094 mmol, 8.2 mg | N1CCOCC1 | C4H9NO
reactant | 7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carbaldehyde | 0.085 mmol, 30.0 mg | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C=O | C18H14F3NO3
reactant | sodium triacetoxy borohydride | 0.14 mmol, 29.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 7-Methyl-5-morpholin-4-ylmethyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 13.3 mg, 37% | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)CN1CCOCC1 | C22H23F3N2O3
